US05962002
Preparation of 2-(5,5-dimethylhex-1-enyl)-3-hydroxy-naphthalene-1,4-dione
The aldehyde (8.46 mmol) was coupled to lawsone following the procedure set out in Example 42 using lawsone (1.18 g),THF (20 ml), pyrrolidine (672 μl), benzene (40 ml) and p-toluenesulphonic acid (1.95 g). 391 mg of the title compound was isolated after purification.

reactant | lawsone | C=1C=CC2=C(C1)C(=O)C=C(C2=O)O | C10H6O3
reactant | lawsone | 1.18 g | C=1C=CC2=C(C1)C(=O)C=C(C2=O)O | C10H6O3
reactant | THF | 20 ml | C1CCOC1 | C4H8O
reactant | pyrrolidine | 672 μl | N1CCCC1 | C4H9N
reactant | p-toluenesulphonic acid | 1.95 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
product | 2-(5,5-dimethylhex-1-enyl)-3-hydroxy-naphthalene-1,4-dione | 391 mg | CC(CCC=CC=1C(C2=CC=CC=C2C(C1O)=O)=O)(C)C | C18H20O3
